US08748412B2
2-(4-tert-Butoxycarbonylamino-benzoylamino)-3-{4-[5-(4-tert-butoxycarbonylamino-phenyl)-[1,2,4]oxadiazol-3-yl]-3-fluorophenyl}-propionic acid 3
2-(4-tert-Butoxycarbonylamino-benzoylamino)-3-(4-cyano-3-fluoro-phenyl)-propionic acid ethyl ester. EDCI (560 mg, 2.92 mmol) was added to a solution of 4-tert-butoxycarbonylamino-benzoic acid (661 mg, 2.7 mmol) in dry CH2Cl2 (5 mL). After the mixture was stirred for 0.5 hr, 2-amino-3-(4-cyano-3-fluoro-phenyl)-propionic acid ethyl ester (627 mg, 2.66 mmol) was added and the mixture was stirred for another 5 hrs at room temperature. The mixture was partitioned between EtOAc and water. The combined organic layers were washed with brine, dried over anhydrous Na2SO4, concentrated under reduced pressure, and purified by silica gel chromatography to give the title compound as a white solid (906 mg, 75% yield).

reactant | 2-(4-tert-Butoxycarbonylamino-benzoylamino)-3-(4-cyano-3-fluoro-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)C#N)F)NC(C1=CC=C(C=C1)NC(=O)OC(C)(C)C)=O)=O | C24H26FN3O5
reactant | EDCI | 2.92 mmol, 560 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 4-tert-butoxycarbonylamino-benzoic acid | 2.7 mmol, 661 mg | C(C)(C)(C)OC(=O)NC1=CC=C(C(=O)O)C=C1 | C12H15NO4
reactant | 2-amino-3-(4-cyano-3-fluoro-phenyl)-propionic acid ethyl ester | 2.66 mmol, 627 mg | C(C)OC(C(CC1=CC(=C(C=C1)C#N)F)N)=O | C12H13FN2O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-tert-Butoxycarbonylamino-benzoylamino)-3-{4-[5-(4-tert-butoxycarbonylamino-phenyl)-[1,2,4]oxadiazol-3-yl]-3-fluorophenyl}-propionic acid | 906 mg, 75% yield | C(C)(C)(C)OC(=O)NC1=CC=C(C(=O)NC(C(=O)O)CC2=CC(=C(C=C2)C2=NOC(=N2)C2=CC=C(C=C2)NC(=O)OC(C)(C)C)F)C=C1 | C34H36FN5O8
